US06919336B2
a) (5-Bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol
(5-Bromo-pyridin-2-yl)-(2,4-difluoro-phenyl)-amine (100 mg; 0.35 mmol) in THF (2.2 ml) is treated at −78 C with nBuLi (0.48 ml of a 1.5M solution in hexane; 0.77 mmol). After 10 min at −78 C, 5-bromo-2-methoxybenzaldehyde (75 mg; 0.35 mmol) in THF (0.3 ml) is added and stirring continued for 30 min. at −78 C. The reaction mixture is poured on water/ice and extracted three times with ethyl acetate. The combined organic phases are dried over Na2SO4 and evaporated to dryness. Purification via chromatography (SiO2; TBME/hexanes 3/7) yields the title compound (60 mg; 40%)

reactant | (5-Bromo-pyridin-2-yl)-(2,4-difluoro-phenyl)-amine | 0.35 mmol, 100 mg | BrC=1C=CC(=NC1)NC1=C(C=C(C=C1)F)F | C11H7BrF2N2
reactant | nBuLi | [Li]CCCC
reactant | 5-bromo-2-methoxybenzaldehyde | 0.35 mmol, 75 mg | BrC=1C=CC(=C(C=O)C1)OC | C8H7BrO2
solvent | THF | 2.2 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | (5-Bromo-2-methoxy-phenyl)-[6-(2,4-difluoro-phenylamino)-pyridin-3-yl]-methanol | 60 mg, 40% | BrC=1C=CC(=C(C1)C(O)C=1C=NC(=CC1)NC1=C(C=C(C=C1)F)F)OC | C19H15BrF2N2O2
